US07030116B2
2-(1-Methyl-cyclopentylmethyl)-4-morpholin-4-yl-N-[1-(oxazolo[4,5-b]pyridine-2-carbonyl)-propyl]-4-oxo-butyramide
2-(1-Methyl-cyclopentylmethyl)-4-morpholin-4-yl-4-oxo-butyric acid (100 mg, 0.35 mmol) was combined with EDC (250 mg, 1.3 mmol), HOBt (250 mg, 1.6 mmol), and (2S)-2-amino-1-oxazolo[4,5-b]pyridin-2-yl-butan-1-ol (100 mg, 0.48 mmol). Dichloromethane (4 mL) was added and then 4-methylmorpholine (0.5 mL). The mixture was stirred at ambient temperature for 2 hours. After dilution with ethyl acetate (150 mL), the solution was washed with 1N aqueous HCl, water, saturated aqueous NaHCO3 solution and brine, dried with MgSO4 and evaporated under vacuum. The crude product was dissolved in dry dichloromethane (10 mL) and Dess-Martin Periodinane (500 mg, 1.2 mmol) was added. After stirring at ambient temperature for 1 hour, the mixture was diluted with ethyl acetate (150 mL) and treated with 0.26M Na2S2O3 solution in saturated aqueous NaHCO3. The organic phase was washed with saturated aqueous NaHCO3 and brine, dried with MgSO4 and evaporated. The product was purified by flash chromatography on silica gel (hexane/ethyl acetate 1:1) to yield the title compound (40 mg; 0.085 mmol) as a mixture of diastereomers.

reactant | 2-(1-Methyl-cyclopentylmethyl)-4-morpholin-4-yl-4-oxo-butyric acid | 0.35 mmol, 100 mg | CC1(CCCC1)CC(C(=O)O)CC(=O)N1CCOCC1 | C15H25NO4
reactant | EDC | 1.3 mmol, 250 mg
reactant | HOBt | 1.6 mmol, 250 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2S)-2-amino-1-oxazolo[4,5-b]pyridin-2-yl-butan-1-ol | 0.48 mmol, 100 mg | N[C@H](C(O)C=1OC=2C(=NC=CC2)N1)CC | C10H13N3O2
reactant | 4-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
reactant | Dess-Martin Periodinane | 1.2 mmol, 500 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | 0.26M | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-(1-Methyl-cyclopentylmethyl)-4-morpholin-4-yl-N-[1-(oxazolo[4,5-b]pyridine-2-carbonyl)-propyl]-4-oxo-butyramide | 0.085 mmol, 40 mg | CC1(CCCC1)CC(C(=O)NC(CC)C(=O)C=1OC=2C(=NC=CC2)N1)CC(=O)N1CCOCC1 | C25H34N4O5
